US07767675B2
Step 3. Methyl 4-(3-oxo-2,3-dihydro-1,2,4-triazin-6-yl)benzoate
A mixture of methyl 4-(diethoxyacetyl)benzoate (15.4 g, 0.0578 mol), semicarbazide hydrochloride (7.1 g, 0.064 mol), N,N-diisopropylethylamine (12 mL, 0.069 mol) in 1,2-dichloroethane (150 mL), and methanol (2 mL) was heated at 95° C. for 4 h. To the mixture was added an additional 0.1 equivalents of semicarbazide hydrochloride. The mixture was stirred at 95° C. for 1 h. After cooling to RT, the mixture was diluted with methylene chloride and washed with water, brine, dried over Na2SO4, filtered, and concentrated. The residue was refluxed with acetic acid (100 mL) and water (1.0 mL) overnight. The mixture was concentrated to yield quantitative crude material which was directly used in the next step.

reactant | methyl 4-(diethoxyacetyl)benzoate | 0.0578 mol, 15.4 g | C(C)OC(C(=O)C1=CC=C(C(=O)OC)C=C1)OCC | C14H18O5
reactant | semicarbazide hydrochloride | 0.064 mol, 7.1 g | Cl.NNC(=O)N
reactant | N,N-diisopropylethylamine | 0.069 mol, 12 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol | 2 mL | CO | CH4O
reactant | semicarbazide hydrochloride | 0.1 equivalents | Cl.NNC(=O)N
solvent | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 4-(3-oxo-2,3-dihydro-1,2,4-triazin-6-yl)benzoate | O=C1NN=C(C=N1)C1=CC=C(C(=O)OC)C=C1 | C11H9N3O3
